US07160335B2
A. 1,5-Bis(mesitylamino)-3,7-dibromoanthraquinone
37 g of 1,3,5,7-tetrabromoanthraquinone, 12.3 ml of mesidine, 17.3 g of sodium acetate and 0.5 g of copper(I) acetate are introduced into a laboratory reaction apparatus and stirred for 7 hours at 170° C. After cooling to RT, the crude product is precipitated by the addition of 1 liter of 2N HCl and recrystallised from ethanol. After filtration and drying 21 g (47%) of product are obtained.

reactant | 1,3,5,7-tetrabromoanthraquinone | 37 g | BrC1=CC(=CC=2C(C3=C(C=C(C=C3C(C12)=O)Br)Br)=O)Br | C14H4Br4O2
reactant | mesidine | 12.3 ml | CC1=CC(=C(C(=C1)C)N)C | C9H13N
reactant | sodium acetate | 17.3 g | C(C)(=O)[O-].[Na+]
catalyst | copper(I) acetate | 0.5 g | C(C)(=O)[O-].[Cu+]
product | 1,5-Bis(mesitylamino)-3,7-dibromoanthraquinone | C1(=C(C(=CC(=C1)C)C)NC1=CC(=CC=2C(C3=C(C=C(C=C3C(C12)=O)Br)NC1=C(C=C(C=C1C)C)C)=O)Br)C | C32H28Br2N2O2
